US06825181B1
Step 2: Synthesis of N-(2,2-dimethoxyethyl)-N-(3-methoxybenzyl)-4-methylbenzenesulfonamide:
13.0 g (50 mmol) of N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide was dissolved in 40 ml of DMF. 2.01 g (50 mmol) of sodium hydride was added to the obtained solution at room temperature. After stirring for 10 minutes, 9.18 g (46 mmol) of 3-methoxybenzyl bromide was added to the obtained mixture, and they were stirred for 2 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide | 50 mmol, 13.0 g | COC(CNS(=O)(=O)C1=CC=C(C=C1)C)OC | C11H17NO4S
reactant | sodium hydride | 50 mmol, 2.01 g | [H-].[Na+]
reactant | 3-methoxybenzyl bromide | 46 mmol, 9.18 g | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N-(2,2-dimethoxyethyl)-N-(3-methoxybenzyl)-4-methylbenzenesulfonamide | COC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=CC=C1)OC)OC | C19H25NO5S
